### PR TITLE
Define a Refinement relation

### PR DESCRIPTION
**Pull request by goens**
Allows us to properly state the theorems for UB

### CODE REVIEW

**Comment by bollu** [comment]
Overall, looks good to me! I would personally develop the theory in full generality, talking about a refinement for `Option a`. However, the specialization we have here may help with general type inference.

**Comment by goens** [comment]
There's actually an instance of `LT` for option for an arbitrary relation, I thought using it, and I could probably refactor it to be `Option.lt Eq`:

https://github.com/leanprover/lean4/blob/28538fc74889ea2dedbc30e236ce26492e5823ca/src/Init/Data/Option/Basic.lean#L65

I just found out this existed when the instances clashed actually, so I wasn't sure it was worth it, but I'd be happy to do that refactoring if you think it is.

File: SSA/Projects/InstCombine/ForMathlib.lean [hunk 1]
```diff
@@ -424,6 +425,45 @@ theorem shl_ushr_eq_and_shl {w : Nat} {x C : Bitvec w.succ} :
...
+  { apply isTrue; exact Refinement.noneAny }
+  { apply isFalse; intro h; cases h }
+  { rename_i val val'
+    cases (decEq val val')
+    { apply isFalse; intro h; cases h; contradiction } 
+    { apply isTrue; apply Refinement.bothSome; assumption }
+  }
+  
+
+instance {w : Nat} : LE (Option (Bitvec w)) := ⟨Refinement⟩
```
Comment (ChrisHughes24) [inline SSA/Projects/InstCombine/ForMathlib.lean:459]: My mathlib brain says not to make these global instances because there are maybe other orders it could be and it's not clear what `LE` is. I would just define a different notation for it and generalize `refinement` to `Option A`
